US05719152
6) (5S)-9-Bromo-5-[p-tert-butoxycarbonylaminomethyl-o-(1-methoxycarbonyl-1acetoxymethyl) phenylcarbamoylmethyl]-6,7-dihydro-1H, 5H-pyrido[1,2,3-de]quinoxaline-2,3-dione
A mixture of 4-tert-butoxycarbonylaminomethyl-2-(1-methoxycarbonyl-1-acetoxymethyl)aniline (500 mg, 1 mmol), (S)-9-bromo-5-carboxymethyl-6,7-dihydro-1H, 5H-pyrido[1,2,3-de]quinoxaline-2,3-dione (475 mg, 1.4 mmol), triethylamine (0.55 mL), and Bop-Cl (360 mg, 1.4 mmol) in dichloromethane (15 mL) was stirred for 48 h at room temperature and diluted with ethyl acetate (200 mL). The mixture was washed with 5% potassium hydrogen sulfate, water, 1/15 phosphate buffer (pH 7.5), water, and brine, successively, dried over magnesium sulfate, and concentrated. The residue was purified by silica gel column chromatography with 0.3% acetic acid/ethyl acetate to give 340 mg of the title compound (50%).

reactant | 4-tert-butoxycarbonylaminomethyl-2-(1-methoxycarbonyl-1-acetoxymethyl)aniline | 1 mmol, 500 mg | C(C)(C)(C)OC(=O)NCC1=CC(=C(N)C=C1)C(OC(C)=O)C(=O)OC | C17H24N2O6
reactant | (S)-9-bromo-5-carboxymethyl-6,7-dihydro-1H, 5H-pyrido[1,2,3-de]quinoxaline-2,3-dione | 1.4 mmol, 475 mg | BrC=1C=C2C=3N(C(C(NC3C1)=O)=O)[C@@H](CC2)CC(=O)O | C13H11BrN2O4
reactant | triethylamine | 0.55 mL | C(C)N(CC)CC | C6H15N
reactant | Bop-Cl | 1.4 mmol, 360 mg | C1COC(=O)N1P(=O)(N2CCOC2=O)Cl | C6H8ClN2O5P
solvent | dichloromethane | 15 mL | ClCCl | CH2Cl2
solvent | ethyl acetate | 200 mL | C(C)(=O)OCC | C4H8O2
product | (5S)-9-Bromo-5-[p-tert-butoxycarbonylaminomethyl-o-(1-methoxycarbonyl-1acetoxymethyl) phenylcarbamoylmethyl]-6,7-dihydro-1H, 5H-pyrido[1,2,3-de]quinoxaline-2,3-dione | 340 mg, 50% | BrC=1C=C2C=3N(C(C(NC3C1)=O)=O)[C@@H](CC2)CC(NC2=C(C=C(C=C2)CNC(=O)OC(C)(C)C)C(OC(C)=O)C(=O)OC)=O | C30H33BrN4O9
